US07229999B2
N-((1R,2R)-2-Hydroxy-cyclohexyl)-6-(2,2,2-trifluoro-ethoxy)-5-(4-trifluoromethyl-phenyl)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 11, using 5-bromo-6-chloro-nicotinic acid methylester, 2,2,2-trifluoro-ethanol (commercially available), 4-trifluoromethylphenyl-boronic acid (commercially available) and (1R,2R)-2-amino-cyclohexanol (commercially available) as starting materials. MS (m/e): 463.1 (MH+).

reactant | 5-bromo-6-chloro-nicotinic acid methylester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | 2,2,2-trifluoro-ethanol | FC(CO)(F)F | C2H3F3O
reactant | 4-trifluoromethylphenyl-boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | N-((1R,2R)-2-Hydroxy-cyclohexyl)-6-(2,2,2-trifluoro-ethoxy)-5-(4-trifluoromethyl-phenyl)-nicotinamide | O[C@H]1[C@@H](CCCC1)NC(C1=CN=C(C(=C1)C1=CC=C(C=C1)C(F)(F)F)OCC(F)(F)F)=O | C21H20F6N2O3
